US06921763B2
Diethyl azodicarboxylate (0.07 mL, 0.45 mmol) was added into a mixture of N1-[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide (0.10 g, 0.22 mmol), triphenylphosphine (0.12 g, 0.45 mmol) and tetrahydro-4H-pyran-4-ol (0.04 g, 0.34 mmol) in tetrahydrofuran (5 mL) and the mixture was stirred at ambient temperature overnight. Tetrahydro-4H-pyran-4-ol (0.01 g, 0.11 mmol), triphenylphosphine (0.04 g, 0.15 mmol) and diethyl azodicarboxylate (0.02 mL, 0.15 mmol) were added and the mixture was stirred at ambient temperature for 5 hours. The solvents were evaporated and the residue was purified by preparative HPLC to yield N1-[4-(4-amino-1-tetrahydro-2H-4-pyranyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide (0.03 g, 0.06 mmol) as a white solid: 1H NMR (DMSO-d6 400 MHz) (9.91 (dd, 1H), 8.30(d, 1H), 8.25 (s, 1H), 8.00 (t, 1H), 7.89 (d, 1H), 7.75 (d, 1H), 7.34 (s, 1H), 7.31 (d, 1H), 6.90 (br, 2H), 4.95 (m, 1H), 4.02 (m, 2H), 3.95 (s, 3H), 3.56 (t, 2H), 2.22 (m, 2H), 1.89 (m, 2H);

reactant | Diethyl azodicarboxylate | 0.45 mmol, 0.07 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | N1-[4-(4-amino-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide | 0.22 mmol, 0.10 g | NC1=C2C(=NC=N1)NN=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC | C20H14F4N6O2
reactant | triphenylphosphine | 0.45 mmol, 0.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrahydro-4H-pyran-4-ol | 0.34 mmol, 0.04 g | O1CCC(CC1)O | C5H10O2
reactant | Tetrahydro-4H-pyran-4-ol | 0.11 mmol, 0.01 g | O1CCC(CC1)O | C5H10O2
reactant | triphenylphosphine | 0.15 mmol, 0.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.15 mmol, 0.02 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N1-[4-(4-amino-1-tetrahydro-2H-4-pyranyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenyl]-2-fluoro-4-trifluoromethylbenzamide | 0.06 mmol, 0.03 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C2CCOCC2 | C25H22F4N6O3
